* C:\Users\Jedrz\Desktop\git files\git\DRSSTC_2\DRSSTC_STM32_Controller\Simulations\Feedback_sym.asc
* Generated by LTspice 24.1.10 for Windows.
L1 N006 0 1n
L2 2 N007 333µ
C1 N007 2 1n
C2 2 0 100p
C3 N007 0 100p
D3 2 ocd 1N5819
D4 N007 ocd 1N5819
D5 0 ocd 1N750
V1 N006 0 SINE(0 500 100k 0 0 0 100) Rser=1 Cpar=0
C4 N007 1 20n
R3 1 2 100R
D1 0 2 1N5819
D2 0 N007 1N5819
R2 ocd 0 5R
V2 N001 0 5V
X§U1 2 1 N001 0 N008 LT1720 ;§pnba In+)In-)V+)V-)OUT
X§U2 N004 N002 N001 0 N003 LT1720 ;§pnba In+)In-)V+)V-)OUT
R1 N004 ocd 220R
C5 N004 0 100p
R4 N001 N002 1k
R5 N002 0 1k
C6 N002 0 1µ
.model D D
.lib C:\Users\Jedrz\AppData\Local\LTspice\lib\cmp\standard.dio
* 1000:1
.tran 1m
K1 L1 L2 1
* .noise   dec  1
.lib LT1720.sub
.backanno
.end
